US04950764
Synthesis Example 11-1: Synthesis of N,N-dibutyl-3-nitro-4-chlorobenzenesulfonamide
150 g of sodium hydroxide was dissolved in 200 ml of water, and the solution was cooled. To this solution was added 600 ml of dibutylamine, and the solution was cooled to 0° C. A solution of 954 g of 3-nitro-4-chlorobenzenesulfonyl chloride in 950 ml of acetonitrile was dropwise added thereto under vigorous stirring while keeping the solution temperature at not higher than 10° C. After completion of the dropwise addition, the reaction mixture was stirred for 1 hour at 10° C., and the crystals which precipitated were collected by filtration, washed wellwith a dilute hydrochloric acid aqueous solution (1N), and dried.

reactant | sodium hydroxide | 150 g | [OH-].[Na+]
reactant | dibutylamine | 600 ml | C(CCC)NCCCC | C8H19N
reactant | 3-nitro-4-chlorobenzenesulfonyl chloride | 954 g | [N+](=O)([O-])C=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl2NO4S
solvent | water | 200 ml | O | H2O
solvent | acetonitrile | 950 ml | C(C)#N | C2H3N
product | N,N-dibutyl-3-nitro-4-chlorobenzenesulfonamide | C(CCC)N(S(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])CCCC | C14H21ClN2O4S
